US08735586B2
2,5-Dimethyl-3-phenyl-3H-imidazo[4,5-b]pyridine
The title compound was prepared with the analogous procedure described in example 3 using 2-Bromo-6-methyl-3-nitropyridine (108 mg, 0.5 mmol) and N-phenylacetamide (81 mg, 0.6 mmol) as starting materials to yield the title compound as brown viscous oil (57 mg, 51%). 1H NMR (DMSO) δ 2.42 (s, 3 H), 3.31 (s, 3 H), 7.11 (d, J=8.0 Hz, 1 H), 7.51-7.63 (m, 5 H), 7.89 (d, J=8.0 Hz, 1 H); 13C NMR δ 14.6, 23.8, 118.0, 126.1, 127.7, 128.7, 129.4, 132.1, 134.8, 148.3, 150.9, 151.1. HRMS: cal for C14H14N3 [M+H+]: 224.1188; found: 224.1184.

reactant | 2-Bromo-6-methyl-3-nitropyridine | 0.5 mmol, 108 mg | BrC1=NC(=CC=C1[N+](=O)[O-])C | C6H5BrN2O2
reactant | N-phenylacetamide | 0.6 mmol, 81 mg | C1(=CC=CC=C1)NC(C)=O | C8H9NO
product | 2,5-Dimethyl-3-phenyl-3H-imidazo[4,5-b]pyridine | 57 mg, 51% | CC1=NC=2C(=NC(=CC2)C)N1C1=CC=CC=C1 | C14H13N3
